US09060517B2
2.51 g of 3-(2-cyano-pyridin-3-yloxy)-8-fluoro-2-methylquinoline were dissolved in 30 ml of dehydrated tetrahydrofuran. 3.6 ml of a 3 M tetrahydrofuran solution of methylmagnesium chloride were dropped therein while cooling with ice followed by stirring the reaction solution for 2 hours while continuing to cool with ice. Subsequently, the reaction solution was added to 1 N hydrochloric acid solution followed by neutralizing with aqueous sodium bicarbonate and then extracting with ethyl acetate. The extract was washed with saturated saline and dried with magnesium sulfate followed by distilling off the solvent under reduced pressure. The resulting residue was purified by silica gel column chromatography to obtain 1.7 g of 1-[3-(2-methyl-8-fluoroquinolin-3-yloxy)-pyridin-2-yl]-ethanone.

reactant | 3-(2-cyano-pyridin-3-yloxy)-8-fluoro-2-methylquinoline | 2.51 g | C(#N)C1=NC=CC=C1OC=1C(=NC2=C(C=CC=C2C1)F)C | C16H10FN3O
reactant | methylmagnesium chloride | C[Mg]Cl
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 M | O1CCCC1 | C4H8O
product | 1-[3-(2-methyl-8-fluoroquinolin-3-yloxy)-pyridin-2-yl]-ethanone | 1.7 g | CC1=NC2=C(C=CC=C2C=C1OC=1C(=NC=CC1)C(C)=O)F | C17H13FN2O2
